US08283354B2
To 4-hydroxy-1-{4-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-piperazin-1-yl}-4-methyl-pent-2-en-1-one (330 mg, 0.76 mmol) at −78° C. in 3 mL of CH2Cl2 was added (diethylamino)sulfur trifluoride (185 mg, 1.15 mmol). The reaction mixture was stirred −78° C. for 2.5 h. The reaction mixture was diluted with 10 mL of water and 10 mL of CH2Cl2. The organic layer was separated and dried over Na2SO4, and the solvent was removed under reduced pressure to give an oil. The residue was subjected to purification by normal phase LC using 11-100% EtOAc-hexanes to give 4-fluoro-1-{4-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-piperazin-1-yl}-4-methyl-pent-2-en-1-one (133 mg, 40% yield). LC/MS: m/z 435.4.3 (M+H)+ at 2.92 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 4-hydroxy-1-{4-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-piperazin-1-yl}-4-methyl-pent-2-en-1-one | 0.76 mmol, 330 mg | OC(C=CC(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)(C)C | C25H28N4O3
reactant | (diethylamino)sulfur trifluoride | 1.15 mmol, 185 mg | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-fluoro-1-{4-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-piperazin-1-yl}-4-methyl-pent-2-en-1-one | 133 mg, 40% yield | FC(C=CC(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)(C)C | C25H27FN4O2
